US07173129B2
N-Ethoxycarbonyl-4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide
To a solution of 4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide (Ex-35E, 3.0 g, 6.5 mmol) in 250 mL of acetone were added ethyl chloroformate (0.93 g, 8.6 mmol) and K2CO3 (2.3 g, 16.7 mmol). The mixture was heated to reflux overnight. The yellow precipitate-formed was filtered. The filtrate was acidified to pH=1 with 3N HCl and extracted with CH2Cl2. The organic phase was washed with water, dried over MgSO4, and concentrated. The residue was further purified by passing a short silica gel column eluted with EtOAc/hexenes (1:1) to give 30 mg of the title compound as a yellow solid, mp 165–175° C. 1H-NMR (300 MHz, CDCl3) δ 9.39 (br, 1H), 8.04–8.20 (m, 6H), 7.64 (d, J=7 Hz, 1H), 7.57 (d, J=15 Hz, 1H), 7.42 (d, J=8 Hz, 1H), 7.12–7.07(m, 2H), 6.87 (s, 1H), 6.59 (s, 1H), 4.16 (q, J=7 Hz, 2H), 4.10 (s, 3H), 4.01 (s, 3H), 1.24 (t, J=7 Hz, 3H).

reactant | 4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide | 6.5 mmol, 3.0 g | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC | C25H22N2O5S
reactant | ethyl chloroformate | 8.6 mmol, 0.93 g | ClC(=O)OCC | C3H5ClO2
reactant | K2CO3 | 16.7 mmol, 2.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | N-Ethoxycarbonyl-4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide | 30 mg | C(C)OC(=O)NS(=O)(=O)C1=CC=C(C=C1)C(\C=C\C1=C(C=C(C(=C1)C=1NC2=CC=CC=C2C1)OC)OC)=O | C28H26N2O7S
